US04250096
2.58 ml (0.018 mol) of triethylamine, followed by 1.3 g (0.0198 mol) of sodium azide, are added to a mixture of 5.7 g (0.018 mol) of 6-(3-nitrophthalimidyl)-caproic acid in 35 ml of dimethylsulphoxide. The reaction mixture is heated for 6 hours at 50° C. and is then concentrated in vacuo, diluted with 100 ml of water and acidified with 4 ml of concentrated hydrochloric acid. The resulting suspension of the reaction product is stirred for 18 hours and filtered with suction, and the filter residue is washed with 20 ml of water and dried for 24 hours at 60° C./0.100. mm Hg, over phosphorus pentoxide. 5.1 g (94% of theory) of 6-(3-azidophthalimidyl)-caproic acid are obtained; melting point 87°-90° C. (with decomposition). IR spectrum (CH2Cl2): 1780 and 1725 cm-1 (CO--N--CO); 2130 cm-1 (N3).

reactant | triethylamine | 0.018 mol, 2.58 ml | C(C)N(CC)CC | C6H15N
reactant | sodium azide | 0.0198 mol, 1.3 g | [N-]=[N+]=[N-].[Na+]
reactant | 6-(3-nitrophthalimidyl)-caproic acid | 0.018 mol, 5.7 g | [N+](=O)([O-])C1=C2C(C(=O)N(C2=O)CCCCCC(=O)O)=CC=C1 | C14H14N2O6
solvent | dimethylsulphoxide | 35 ml | CS(=O)C | C2H6OS
product | 6-(3-azidophthalimidyl)-caproic acid | 5.1 g, 94% | N(=[N+]=[N-])C1=C2C(C(=O)N(C2=O)CCCCCC(=O)O)=CC=C1 | C14H14N4O4
